US04534979
To 0.3M of methyl magnesium iodide in 100 ml of ether, stirred under a nitrogen atmosphere and in a cooling bath of -5° C., was added dropwise a solution of ethyl 3-(2,5-dimethyl-4-methoxyphenyl)-acrylate (23.4 g, 0.1M) in 50 ml of diethyl ether. This mixture was stirred for 3 hours at room temperature. Cold water (150 ml) was added, and the product was extracted into ether. The ethereal layer was washed with brine, dried (magnesium sulfate) and concentrated on rotary evaporator to give 21.4 g of 4-(2,5-dimethyl-4-methoxyphenyl)-2-methyl-3-buten-2-ol as yellow powder.

reactant | methyl magnesium iodide | 0.3M | C[Mg]I
reactant | ethyl 3-(2,5-dimethyl-4-methoxyphenyl)-acrylate | 0.1M, 23.4 g | CC1=C(C=C(C(=C1)OC)C)C=CC(=O)OCC | C14H18O3
reactant | water | 150 ml | O | H2O
reactant | ether | 100 ml | CCOCC | C4H10O
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 4-(2,5-dimethyl-4-methoxyphenyl)-2-methyl-3-buten-2-ol | 21.4 g | CC1=C(C=C(C(=C1)OC)C)C=CC(C)(O)C | C14H20O2
